US06812237B2
A stirred solution of 2,6-pyridinedicarboxylic acid chloride (3.51 g, 0.0172 mol) in 100 mL of THF is cooled to 0° C. then 12 mL (0.172 mol) of allyl alcohol and 7.1 mL (0.069 mol) of NMM are added simultaneously. The reaction is allowed to stir at 25° C. for 2 h, and then diluted with 100 mL of Et2O and washed with 100 mL water. The aqueous phase is extracted with Et2O (2×50 mL) and the combined extracts are washed with brine and dried with MgSO4. Filtration and concentration yields diallyl 2,6-pyridinedicarboxylate as a clear oil which is used without further purificiation.

reactant | 2,6-pyridinedicarboxylic acid chloride | 0.0172 mol, 3.51 g | N1=C(C=CC=C1C(=O)Cl)C(=O)Cl | C7H3Cl2NO2
reactant | allyl alcohol | 0.172 mol, 12 mL | C(C=C)O | C3H6O
reactant | NMM | 0.069 mol, 7.1 mL | CN1CCOCC1 | C5H11NO
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | diallyl 2,6-pyridinedicarboxylate | N1=C(C=CC=C1C(=O)OCC=C)C(=O)OCC=C | C13H13NO4
